US07332529B2
Synthesis of 3,5-diundecoxybenzyl Chloride
Dry dichloromethane (5 mL), DMF (3.04 mL, 39.2 mmol) and a magnetic stir bar were placed into a 250 mL RBF, and the RBF was sealed with a rubber septum. N2 inlet and outlet needles were inserted into the septum. The flask was then cooled to 0° C. in an ice bath. Thionyl chloride (2.86 mL, 39.2 mmol) was added to the RBF via a syringe. The RBF was placed into an ice bath and cooled to 0° C. 3,5-diundecoxybenzyl alcohol (15.0 g, 35.7 mmol) was dissolved in a solution of dichloromethane (60 mL) and pyridine (2.88 mL, 35.7 mmol). This solution was added to the RBF via a syringe cautiously over 20 minutes. The reaction mixture gradually changed from a transparent yellow color to an opaque yellow color. The beaker used to dissolve the 3,5-diundecoxybenzyl alcohol was rinsed with dichloromethane and the rinses were added to the RBF. The RBF was removed from the ice bath and the reaction mixture was stirred overnight. The solution was then concentrated using rotary evaporation. A solution of 50/50 ether/hexanes (100 mL) was added to the RBF, changing the solution color from deep yellow to opaque white. The liquid was decanted leaving behind any solid. The RBF was rinsed in this manner 2 more times, saving the decanted liquid. The decanted liquid was run through a silica gel baseline filtration apparatus. The filtrate was then concentrated using rotary evaporation. The compound solidified after approximately 2 hours under high vacuum. This produced a 14.8 g yield or a 94.5% yield of the derivative. The NMR characterization data for the derivative is as follows. 1NMR (300 MHz, CDCl3): 0.88 (t, J=6.9, 6H, CH2CH3), 1.27-1.45 (m, 32H, CH2(CH2)8), 1.76 (p, J=6.6, 4H, OCH2CH2), 3.92 (t, J=6.6, 4H, OCH2), 4.50 (s, 2H, ArCH2Cl), 6.39 (t, J=2.2, 1H, ArH), 6.50 (d, J=2.2, 2H, ArH). 13C NMR (75 MHz, CDCl3): 14.23, 22.79, 26.13, 29.31, 29.45, 29.48, 29.68, 29.71, 32.01, 46.56, 68.19, 101.32, 106.97, 139.38, 160.53.

reactant | DMF | 39.2 mmol, 3.04 mL | CN(C)C=O | C3H7NO
reactant | Thionyl chloride | 39.2 mmol, 2.86 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3,5-diundecoxybenzyl alcohol | 35.7 mmol, 15.0 g | C(CCCCCCCCCC)OC=1C=C(CO)C=C(C1)OCCCCCCCCCCC | C29H52O3
reactant | pyridine | 35.7 mmol, 2.88 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3,5-diundecoxybenzyl Chloride | 94.5% yield | C(CCCCCCCCCC)OC=1C=C(CCl)C=C(C1)OCCCCCCCCCCC | C29H51ClO2
